US06326369B1
7-[2-(1H-Benzo[d]imidazol-1-yl)ethyl]-2,3-dimethoxy-4,5,6,7,8,9-hexahydro-1H-benzo[a]cycloheptene-1,4-dione
To a mixture of 1-[2-(1,2,3,4-tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-7-yl)ethyl]-1H-benzo[d]imidazole (380 mg), pyridine-2,6-dicarboxylic acid (465 mg), THF (8 ml), and water (4 ml) was added an water (4 ml) solution of CAN (2.03 g) with cooling with ice. After being stirred for 15 min, the reaction mixture was diluted with saturated aqueous sodium bicarbonate and extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate, water, and saturated aqueous sodium chloride and dried. The solvent was removed in vacuo. The residue was recrystallized from ethyl acetate to obtain the entitled compound (240 mg).

reactant | 1-[2-(1,2,3,4-tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-7-yl)ethyl]-1H-benzo[d]imidazole | 380 mg | COC1=C(C(=C(C2=C1CCC(CC2)CCN2C=NC1=C2C=CC=C1)OC)OC)OC | C24H30N2O4
reactant | pyridine-2,6-dicarboxylic acid | 465 mg | N1=C(C=CC=C1C(=O)O)C(=O)O | C7H5NO4
reactant | THF | 8 ml | C1CCOC1 | C4H8O
reactant | CAN | 2.03 g | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 4 ml | O | H2O
solvent | water | 4 ml | O | H2O
product | 7-[2-(1H-Benzo[d]imidazol-1-yl)ethyl]-2,3-dimethoxy-4,5,6,7,8,9-hexahydro-1H-benzo[a]cycloheptene-1,4-dione | 240 mg | N1(C=NC2=C1C=CC=C2)CCC2CCC1=C(CC2)C(C(=C(C1=O)OC)OC)=O | C22H24N2O4
